US04496572
A mixture of 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester (1.0 g) and 6N hydrochloric acid (80 ml) was heated on a steam bath for 5 hours and then cooled. The solid was filtered off, dried and crystallized from ethano/ether to give 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-5-carboxylic acid hydrochloride (0.72 g), m.p. 298°-299° C.

reactant | 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester | 1.0 g | C(C)OC(=O)C1=CC2=C(SC(=C2C)CC=2NC=CN2)C=C1 | C16H16N2O2S
reactant | hydrochloric acid | 6N, 80 ml | Cl | ClH
product | 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-5-carboxylic acid hydrochloride | 0.72 g | Cl.N1C(=NC=C1)CC1=C(C2=C(S1)C=CC(=C2)C(=O)O)C | InChI=1S/C14H12N2O2S.ClH/c1-8-10-6-9(14(17)18)2-3-11(10)19-12(8)7-13-15-4-5-16-13;/h2-6H,7H2,1H3,(H,15,16)(H,17,18);1H
